US07932272B2
2,6-Diamino-5-iodo-nicotinic acid ethyl ester
To a solution of 2,6-diamino-nicotinic acid ethyl ester described in Preparation Example A-14 (1.4 g, 7.7 mmol) in N,N-dimethylformamide (15 mL) was added N-iodosuccinimide (2.09 g, 9.3 mmol), and the solution was stirred for 1 hour at room temperature. The reaction mixture was poured into an aqueous solution of saturated sodium thiosulfate pentahydrate, and the solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) and the title compound (0.84 g, 2.7 mmol, 35.5%) was obtained.

reactant | 2,6-diamino-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1)N)N)=O | C8H11N3O2
reactant | N-iodosuccinimide | 9.3 mmol, 2.09 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate pentahydrate | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2,6-Diamino-5-iodo-nicotinic acid ethyl ester | 2.7 mmol, 0.84 g, 35.5% | C(C)OC(C1=C(N=C(C(=C1)I)N)N)=O | C8H10IN3O2
